US07612055B2
c) [(R)-3-Methyl-1-(5-oxo-2,5-dihydro-furan-2-yl)-hex-5-enyl]-carbamic acid tert-butyl ester (mixture of diastereomers)
A solution of 17.15 g (46.7 mmol) of ((R)-1-benzenesulfonyl-3-methyl-hex-5-enyl)-carbamic acid tert-butyl ester in 100 ml dry THF under nitrogen atmosphere is cooled to −75° C. A solution A containing lithium furan-2-olate in THF is added over a period of 10 minutes via a canula using positive nitrogen pressure. Solution A is prepared as follows. A solution of 9.85 ml (46.7 mmol) HMDS in 100 ml dry THF under nitrogen atmosphere is cooled at −70° C. and 29.2 ml of a 1.6 M solution of BuLi in hexane (46.7 mmol) are added dropwise. After 30 minutes 3.92 g (46.7 mmol) 5H-furan-2-one in 2 ml dry THF are added dropwise and the temperature is kept at −40° C. After addition the reaction mixture is stirred at −75° C. for 1.5 h and then poured directly, with stirring, in 200 ml water and 200 ml EtOAc. The organic phase is washed successively with 5% aqueous citric acid, water (2×), 5% aqueous NaHCO3 solution and water (4×). The reaction mixture is evaporated and the residue chromatographed over silica gel (EtOAc/hexane 1:3) to yield the title compound as an oil.

reactant | ((R)-1-benzenesulfonyl-3-methyl-hex-5-enyl)-carbamic acid tert-butyl ester | 46.7 mmol, 17.15 g | C(C)(C)(C)OC(N[C@@H](CC(CC=C)C)S(=O)(=O)C1=CC=CC=C1)=O | C18H27NO4S
reactant | lithium furan-2-olate | O1C(=CC=C1)[O-].[Li+]
reactant | HMDS | 46.7 mmol, 9.85 ml | C[Si](C)(C)N[Si](C)(C)C | C6H19NSi2
reactant | BuLi | [Li]CCCC
reactant | hexane | 46.7 mmol | CCCCCC | C6H14
reactant | 5H-furan-2-one | 46.7 mmol, 3.92 g | O1C(C=CC1)=O | C4H4O2
solvent | THF | 100 ml | C1CCOC1 | C4H8O
solvent | THF | 100 ml | C1CCOC1 | C4H8O
solvent | THF | 2 ml | C1CCOC1 | C4H8O
solvent | water | 200 ml | O | H2O
solvent | EtOAc | 200 ml | CCOC(=O)C | C4H8O2
product | [(R)-3-Methyl-1-(5-oxo-2,5-dihydro-furan-2-yl)-hex-5-enyl]-carbamic acid tert-butyl ester | C(C)(C)(C)OC(N[C@H](CC(CC=C)C)C1OC(C=C1)=O)=O | C16H25NO4
